US08039490B2
AF N-[trans-4-(2-Hydroxy-ethyl)-cyclohexyl]-acetamide
LiAlH4 (2.10 g, 55 mmol) and THF (150 ml) were placed in a dry balloon. After cooling this mixture to 0° C. a solution of (trans-4-acetylamino-cyclohexyl)-acetic acid ethyl ester (8.42 g, 37 mmol) in little THF was added dropwise. The reaction was stirred 1 h before careful neutralization with H2O (5.6 ml), 1 N NaOH (3×5.6 ml) and more H2O (5.6 ml). The resulting mixture was stirred over night before filtering off the solids. Evaporation of the solvent and drying under high vacuum afforded 5.25 g (76%, 28 mmol) of a light brown solid. MS (m/z): 186.4 ([M+H+).

reactant | LiAlH4 | 55 mmol, 2.10 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (trans-4-acetylamino-cyclohexyl)-acetic acid ethyl ester | 37 mmol, 8.42 g | C(C)OC(C[C@@H]1CC[C@H](CC1)NC(C)=O)=O | C12H21NO3
reactant | H2O | 5.6 ml | O | H2O
reactant | NaOH | 1 N, 5.6 ml | [OH-].[Na+]
reactant | H2O | 5.6 ml | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | N-[trans-4-(2-Hydroxy-ethyl)-cyclohexyl]-acetamide | 28 mmol, 5.25 g, 76% | OCC[C@@H]1CC[C@H](CC1)NC(C)=O | C10H19NO2
